US04474964
In 50 ml of absolute ethyl alcohol was dissolved 4.0 g of 3-(2-piperidinoethylamino)indazole and into the solution was introduced dried hydrogen chloride gas under cooling with ice. Anhydrous diethyl ether was added to the solution to separate crystals. Then the crystals were obtained by filtration and dried to give 3-(2-piperidinoethylamino)indazole hydrochloride.

reactant | 3-(2-piperidinoethylamino)indazole | 4.0 g | N1(CCCCC1)CCNC1=NNC2=CC=CC=C12 | C14H20N4
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | 3-(2-piperidinoethylamino)indazole hydrochloride | Cl.N1(CCCCC1)CCNC1=NNC2=CC=CC=C12 | InChI=1S/C14H20N4.ClH/c1-4-9-18(10-5-1)11-8-15-14-12-6-2-3-7-13(12)16-17-14;/h2-3,6-7H,1,4-5,8-11H2,(H2,15,16,17);1H
